US06022718
To a solution of 9.15 mg (0.03 mmol) of capsaicin dissolved in 5,000 μl of hexane were added 200 mg of Lipase OF and 684μl (3 mmol) of myristic acid and the mixture was allowed to react at 70° C. for a predetermined time with stirring. Thereafter, the reaction mixture was analyzed by high performance liquid chromatography and the amount of N-vanillylmyristamide produced was determined.

reactant | capsaicin | 0.03 mmol, 9.15 mg | CC(C)/C=C/CCCCC(=O)NCC=1C=CC(=C(C1)OC)O | C18H27NO3
reactant | myristic acid | 3 mmol, 684μl | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
solvent | hexane | 5,000 μl | CCCCCC | C6H14
product | N-vanillylmyristamide | C(C1=CC(OC)=C(O)C=C1)NC(CCCCCCCCCCCCC)=O | C22H37NO3
